US09403845B2
To a solution of 6-bromo-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one (456 mg, 1.56 mmol) in DMF (3 ml) was added K2CO3 (2.16 g, 15.6 mmol) followed by Mel (0.29 ml, 4.7 mmol) at ambient temperature. The suspension was heated to 60° C. for 1.5 h then cooled to ambient temperature, filtered, washed with ethyl acetate and concentrated under reduced pressure. Purification by flash chromatography eluting with ethyl acetate/heptane, gradient, afforded 6-bromo-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one.

reactant | 6-bromo-1-methyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one | 1.56 mmol, 456 mg | BrC=1C=CC=2N(S(CC(C2N1)=O)(=O)=O)C | C8H7BrN2O3S
reactant | K2CO3 | 15.6 mmol, 2.16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-bromo-1,3,3-trimethyl-2,2-dioxo-pyrido[3,2-c]thiazin-4-one | BrC=1C=CC=2N(S(C(C(C2N1)=O)(C)C)(=O)=O)C | C10H11BrN2O3S
